US05447934
7-Methyl-3-(4-pyridinylimino)-3H-[1,2,4]-thiadiazolo-[4,3-a]pyridine
To a solution of 3.3 ml (30 mmol) trichloromethanesulphenic acid chloride in 450 ml dichloromethane one adds dropwise at 0° C. a solution of 3.2 g (30 mmol) 2-amino-4-methylpyridine and 4.2 ml triethylamine in 25 ml. dichloromethane, stirs for 10 min and adds dropwise thereto a solution of 2.8 g (30 mmol) 4-aminopyridine and 12 ml triethylamine in 100 ml dichloromethane. After 3 h stirring at room temperature, one pours into water, extracts with ethyl acetate, dries the extract, evaporates and chromatographs on silica gel (elution agent ethyl acetate/isohexane 1:1), One isolates 1,2 g of title compound (17% of theory) of the m.p. 144°-145° C.

reactant | trichloromethanesulphenic acid chloride | 30 mmol, 3.3 ml | ClC(SCl)(Cl)Cl | CCl4S
reactant | 2-amino-4-methylpyridine | 30 mmol, 3.2 g | NC1=NC=CC(=C1)C | C6H8N2
reactant | triethylamine | 4.2 ml | C(C)N(CC)CC | C6H15N
reactant | 4-aminopyridine | 30 mmol, 2.8 g | NC1=CC=NC=C1 | C5H6N2
reactant | triethylamine | 12 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 450 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 7-Methyl-3-(4-pyridinylimino)-3H-[1,2,4]-thiadiazolo-[4,3-a]pyridine | 1,2 g, 17% | CC1=CC=2N(C=C1)C(SN2)=NC2=CC=NC=C2 | C12H10N4S
